US07932271B2
N-[5-Chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-2-yl]ethane-1,2-diamine dihydrochloride
To t-butyl 2-[[5-chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-2-yl]amino]ethylcarbamate (146 mg, 0.25 mmol) was added a 20% hydrochloric acid-methanol solution (1 ml). The resulting mixture was stirred for 1 hour. The residue obtained by concentrating the reaction mixture under reduced pressure was crystallized from ethanol to give the title compound (106 mg, 76%).

reactant | t-butyl 2-[[5-chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-2-yl]amino]ethylcarbamate | 0.25 mmol, 146 mg | ClC=1C(=CC(=NC1)NCCNC(OC(C)(C)C)=O)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C25H25Cl2F2N3O4S
reactant | hydrochloric acid methanol | 1 ml | Cl.CO
product | N-[5-Chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-2-yl]ethane-1,2-diamine dihydrochloride | 106 mg, 76% | Cl.Cl.ClC=1C(=CC(=NC1)NCCN)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | InChI=1S/C20H17Cl2F2N3O2S.2ClH/c21-12-1-4-14(5-2-12)30(28,29)20(16-9-13(23)3-6-18(16)24)15-10-19(26-8-7-25)27-11-17(15)22;;/h1-6,9-11,20H,7-8,25H2,(H,26,27);2*1H
